US07223782B2
1-(4-Chloro-phenyl)-5-trifluoromethyl-1H-pyrazole-4-carbonyl chloride (0.250 g, 0.808 mmol) was added to a solution of 3-methylsulfonylaniline hydrochloride (0.184 g, 0.889 mmol) and triethylamine (0.563 mL, 4.04 mmol) in acetonitrile (20 mL). The reaction mixture heated at 60° C. for 12 h, concentrated and crude product purified by column chromatography on silica gel to give 1-(4-chloro-phenyl)-5-trifluoromethyl-1H-pyrazole-4-carboxylic acid (3-methane sulfonyl-phenyl)-amide. 1H-NMR (CD3OD, 300 MHz) δ 8.37 (s, 1H), 8.17 (s, 1H), 7.97 (d, 1H, J=8.5 Hz), 7.73 (d, 1H, J=8.0 Hz), 7.59–7.66 (m, 3H), 7.51 (d, 2H, J=8.8 Hz), 3.15 (s, 3H); LCMS m/z=443.9 (M+H)+.

reactant | 1-(4-Chloro-phenyl)-5-trifluoromethyl-1H-pyrazole-4-carbonyl chloride | 0.808 mmol, 0.250 g | ClC1=CC=C(C=C1)N1N=CC(=C1C(F)(F)F)C(=O)Cl | C11H5Cl2F3N2O
reactant | 3-methylsulfonylaniline hydrochloride | 0.889 mmol, 0.184 g | Cl.CS(=O)(=O)C=1C=C(N)C=CC1
reactant | triethylamine | 4.04 mmol, 0.563 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 1-(4-chloro-phenyl)-5-trifluoromethyl-1H-pyrazole-4-carboxylic acid (3-methane sulfonyl-phenyl)-amide | CS(=O)(=O)C=1C=C(C=CC1)NC(=O)C=1C=NN(C1C(F)(F)F)C1=CC=C(C=C1)Cl | C18H13ClF3N3O3S
